US05866684
0.86 g (2.3 mmol) of tert-butyl 5-[2-(dichloromethyl)-4(RS), 5,5-trimethyl-1,3,2-dioxaborolan-4-yl]-3(RS)-methylvalerate was dissolved in 5 ml of tetrahydrofuran and the solution was cooled to -78° C. under a nitrogen atmosphere. 2.6 ml (2.6 mmol) of 1 M ethylmagnesium bromide in tetrahydrofuran were added dropwise, the resulting solution wasstirred for 16 hours while slowly warming to room temperature and then diluted with ethyl acetate and extracted with 2M hydrochloric acid and brine. The organic phase was dried over sodium sulphate and then evporatedunder a vacuum to give 0.83 g of tert-butyl 5-[2-(1(RS)-chloropropyl)-4(RS),5,5-trimethyl-1,3,2-dioxaborolan-4-yl]-3(RS)-methylvalerate as an oil which was used in the next step without purification.

reactant | tert-butyl 5-[2-(dichloromethyl)-4(RS), 5,5-trimethyl-1,3,2-dioxaborolan-4-yl]-3(RS)-methylvalerate | 2.3 mmol, 0.86 g | ClC(B1OC(C(O1)(C)CCC(CC(=O)OC(C)(C)C)C)(C)C)Cl | C16H29BCl2O4
reactant | ethylmagnesium bromide | 2.6 mmol, 1 M, 2.6 ml | C(C)[Mg]Br
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 5-[2-(1(RS)-chloropropyl)-4(RS),5,5-trimethyl-1,3,2-dioxaborolan-4-yl]-3(RS)-methylvalerate | 0.83 g | ClC(CC)B1OC(C(O1)(C)CCC(CC(=O)OC(C)(C)C)C)(C)C | C18H34BClO4
